* 7432 model
 
.subckt 7432 A0 B0 Y0 A1 B1 Y1 GND A2 B2 Y2 A3 B3 Y3 VCC 

a0 [A0 B0] Y0 d_or1
a1 [A1 B1] Y1 d_or1
a2 [A2 B2] Y2 d_or1
a3 [A3 B3] Y3 d_or1

.model d_or1 d_or (rise_delay=1.0e-6 fall_delay=2.0e-6
+                  input_load=1.0e-12)

.ends
